US05783704
1,3-Bis(pyridin-3-ylmethyleneamino)urea
32.2 g of pyridine-3-carbaldehyde are added in the course of approx. 10 minutes, at room temperature, to a suspension of 13.5 g of carbohydrazide in 200 ml of methanol, the temperature rising to more than 35°. The reaction mixture is further stirred for 1 hour and then cooled to 5°. The crystals that precipitate are filtered off with suction and dried in vacuo at 70°. 40 g of the title compound having a melting point of 202°-204° are thus obtained.

reactant | pyridine-3-carbaldehyde | 32.2 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | carbohydrazide | 13.5 g | NNC(=O)NN | CH6N4O
solvent | methanol | 200 ml | CO | CH4O
product | 1,3-Bis(pyridin-3-ylmethyleneamino)urea | N1=CC(=CC=C1)C=NNC(=O)NN=CC=1C=NC=CC1 | C13H12N6O
